US04065620
A. benzhydryl 7-acetamido-3-hydroxymethyl-3-cephem-4-carboxylate-1-oxide
To a stirred, cooled (0°-5° C.) solution of 876 mg. of benzhydryl 7-acetamido-3-hydroxymethyl-3-cephem-4-carboxylate in a mixture of 40 ml. of methylene chloride and 20 ml. of isopropanol there was added dropwise 407 mg. (equivalent, about 85% pure) of m-chloroperbenzoic acid in 20 ml. of isopropanol, During the addition a precipitate was formed which was collected and washed with ethyl acetate yielding 800 mg. of the titled compound, m.p. 178°-179° C. The NMR, IR, and UV spectra were consistent with the assigned structure.

reactant | benzhydryl 7-acetamido-3-hydroxymethyl-3-cephem-4-carboxylate | C(C)(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N2O5S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | benzhydryl 7-acetamido-3-hydroxymethyl-3-cephem-4-carboxylate-1-oxide | C(C)(=O)NC1[C@@H]2N(C(=C(CS2=O)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N2O6S
